US05158865
The 4-carboxyphthalimide (0.5 mol) was dissolved in dimethylformamide (200 ml) and H2O (600 ml) and treated with 37% aqueous formaldehyde (100 ml) and the mixture was heated on a steam bath until the solution became homogenous. The reaction was placed in an ice bath and cooled. A white solid crystallized and was collected and washed with cold water. The solid was dissolved in THF and dried with MgSO4 and concentrated to yield 96% of hydroxymethylphthalimide product.

reactant | 4-carboxyphthalimide | 0.5 mol | C(=O)(O)C=1C=C2C(C(=O)NC2=O)=CC1 | C9H5NO4
reactant | H2O | 600 ml | O | H2O
reactant | formaldehyde | 100 ml | C=O | CH2O
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | hydroxymethylphthalimide | 96% | OCC1=C2C(C(=O)NC2=O)=CC=C1 | C9H7NO3
